US07060721B1
To a suspension of 4-((tert-butyldiphenylsiloxy)methyl)-3-chlorobenzaldehyde (3.24 g) in ethanol (32 ml) was added sodium borohydride (149 mg) under ice-cooling and the mixture was stirred at room temperature for 3 hr. The reaction mixture was concentrated to about half amount. Water was added and the resulting product was extracted twice with diisopropyl ether. The organic layers were combined, washed successively with saturated aqueous sodium hydrogencarbonate solution and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=5/1) to give 4-((tert-butyldiphenylsiloxy)methyl)-3-chlorobenzyl alcohol (3.08 g) as a colorless oil.

reactant | 4-((tert-butyldiphenylsiloxy)methyl)-3-chlorobenzaldehyde | 3.24 g | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC1=C(C=C(C=O)C=C1)Cl | C24H25ClO2Si
reactant | sodium borohydride | 149 mg | [BH4-].[Na+]
solvent | ethanol | 32 ml | C(C)O | C2H6O
product | 4-((tert-butyldiphenylsiloxy)methyl)-3-chlorobenzyl alcohol | 3.08 g | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC1=C(C=C(CO)C=C1)Cl | C24H27ClO2Si
